Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
nystatin / Gadolinium-Containing Contrast Media / shellfish 
derived / metronidazole / vancomycin
 
Attending: ___.
 
Chief Complaint:
positive blood cultures
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: Ms ___ is a ___ year old woman with history of 
autoimmune
autonomic neuropathy on IVIG, possible mast cell activation
syndrome, genital herpes, RUL carcinoid s/p lobectomy ___ who
came back to the ED because of positive blood cultures. Ms.
___ was just discharged on ___ after presenting with 
several
days of nasal congestion, sore throat, myalgias, fevers and
chills, as well as a perianal ulcer. On initial presentation to
the ED on ___ she was noted to be tachycardic with Tm 100.2, 
but
by the time she arrived to the floor she was hemodynamically
stable and asymptomatic. Her UA and CXR were negative for
infection. She was presumed to have viral illness. Her painful
perianal ulcer was concerning for genital herpes for which she
had started valacyclovir, which was continued. Given clinical
stability, patient was discharged home. Blood cultures obtained
in the ED on ___ came back with ___ GPCs in clusters and pairs,
and thus patient was contacted and asked to return to the ED for
readmission pending speciation of cultures.

In the ED, initial vitals were T98.2, HR97, BP139/90, RR16, 100%
RA
Patient's exam was only notable for flushed face and tenderness
in submandibular area without lymphadenopathy.
Labs were notable for:
WBC 6.1 with normal diff
Hgb 13.7, platelets 233
Lactate normal at 1.0
Chemistries unremarkable, Cr 0.7
Lyme Ab: ordered and pending 
Blood cultures were obtained
No studies were performed

Patient was given: 
___ 23:34 PO/NG DiphenhydrAMINE 25 mg 
___ 00:15 IV Vancomycin (1000 mg ordered)   
___ 00:16 IV CefePIME 2 g  

Vitals on transfer were:
T98.2, HR85, BP118/88, RR16, 99% RA 

On arrival to the floor, patient confirms the above. She states
that she has had some improvement in her symptoms since she 
first
presented to the ED on ___. She has not had any further fevers
and her myalgias have improved. She endorses ongoing cough
occasionally productive of yellow sputum, rhinorrhea, sore
throat, stools that have been looser than usual. She has ongoing
headaches for several months which have not changed in 
character.
Ms ___ has noted mild dyspnea with exertion and climbing
stairs but that has not been severely limiting. She denies any
chest pain, abdominal pain, nausea or vomiting, dysuria. She 
does
note polyuria which has also been a recent problem (discussed
with PCP earlier this month as well). She has not noted any new
rashes, and the lesions in her mouth and by her anus have 
healed.
She has not had any recent instrumentation; her last IVIG
infusion was ___. 
 
ROS: 10 point review of systems performed and negative except 
per
HPI.

 
Past Medical History:
# Autoimmune autonomic neuropathy: on IVIG q2 weeks
# Small-fiber polyneuropathy
  # Dysautonomia
  # Bladder neck dyssynergia / Neurogenic bladder
  # Dyssynergia between rectum and anal sphincter
# POTS
# Possible mast-cell activation syndrome: followed by Dr.
___ at ___. She has the clinical presentation consistent
with mast cell activation but states she has tested negative
# Chronic insomnia
# Marijuana use (smoking): every-other day use since at least
___
# Genital herpes
# Hx of RUL carcinoid lung cancer in ___ s/p right lower
lobectomy, with some nodules that have been followed and are
stable. She also reports recent normal chromogranin A and 
5-HIAA.
 
Social History:
___
Family History:
She reports her father had DM2 c/b peripheral neuropathy.
She reports her mother has no major medical ailments.
She reports her 2 sisters have no major medical ailments.
Per chart review: mother with schizophrenia and father with 
bipolar disorder.
 
Physical Exam:
ADMISSION EXAM:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress, appropriate and
conversant. Mild facial flushing
EYES: Anicteric, pupils equally round, extraocular movements
intact.
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate; no
lesions appreciated on oropharyngeal and buccal mucosa
LYMPH: no sublingual, submandibular, cervical, periauricular,
supraclavicular, axillary or inguinal lymphadenopathy
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds diminished.  No HSM
GU: No suprapubic fullness or tenderness to palpation. no CVAT
BACK: No TTP over spine
MSK: Neck supple, moves all extremities, strength ___ in upper
and lower extremities bilaterally
SKIN: No rashes or ulcerations noted. ~3mm round erythema around
puncture/iv sites, which does not appear infected
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
EXAM:
VITALS: ___ ___ Temp: 97.6 PO BP: 115/79 HR: 86 RR: 18 O2
sat: 98% O2 delivery: Ra 
___ 0934 Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: Alert and in no apparent distress, appropriate and
conversant. Erythema on face and scalp. 
EYES: Anicteric, pupils equally round, extraocular movements
intact.
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate; no
lesions appreciated on oropharyngeal and buccal mucosa
CV: Heart regular, no murmur. No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds diminished.  No HSM
SKIN: No ulcerations noted. ~3mm round erythema around
puncture/iv sites, which does not appear infected. Erythema over
the face, scalp , anterior and posterior chest down to the 
axilla
bilaterally. No rash on ___. This rash had resolved by the time 
of discharge. 
MSK: Full ROM of left and right MTP both passive and active. No
swelling. No erythema. No ___ tenderness 
NEURO: Alert, oriented, face symmetric, speech fluent, moves all
limbs, sensation to light touch grossly intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission Labs: 
___ 09:30PM BLOOD WBC-6.1 RBC-4.48 Hgb-13.7 Hct-41.1 MCV-92 
MCH-30.6 MCHC-33.3 RDW-12.2 RDWSD-40.9 Plt ___
___ 09:30PM BLOOD Glucose-94 UreaN-10 Creat-0.7 Na-140 
K-3.8 Cl-100 HCO3-27 AnGap-13
___ 09:36PM BLOOD Lactate-1.0

MICRO: 
___ 5:12 am BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ (___) 
@ ___ ON
      ___. 
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS. 

DISCHARGE LABS: 
___ 09:00AM BLOOD WBC-5.6 RBC-4.23 Hgb-13.0 Hct-39.7 MCV-94 
MCH-30.7 MCHC-32.7 RDW-12.1 RDWSD-41.6 Plt ___
___ 09:00AM BLOOD Glucose-118* UreaN-9 Creat-0.8 Na-140 
K-3.5 Cl-101 HCO3-26 AnGap-13
___ 09:00AM BLOOD ALT-21 AST-19 AlkPhos-81 TotBili-0.2
___ 09:00AM BLOOD Albumin-4.0 Calcium-9.3 Phos-3.8 Mg-1.___ year old woman with history of autoimmune autonomic 
neuropathy on IVIG, possible mast cell activation syndrome, 
genital herpes, RUL carcinoid s/p lobectomy ___ with recent 
hospitalization for fever/myalgia and perianal ulceration who 
was asked to come back to the ED because of positive blood 
cultures.

ACUTE/ACTIVE PROBLEMS:
# Positive blood culture - Contaminate
Blood cultures from ___ growing GPCs in clusters and pairs in 
___ cultures that ultimately grew Coag-Negative Staph. All other 
cultures negative. She was initatlly treated with IV vancomycin 
with premedication with Benadryl. She developed flushing and 
puritis with the medication on the morning of ___ during the 
infusion requiring cessation of the IV vancomycin. She was seen 
by ID who felt was consistent with contaminate with an ongoing 
viral process. I discussed with the patient continued 
hospitalization for monitoring or discharge home with outpatient 
follow-up. The patient elected for discharge home with 
outpatient follow-up. 

# History of genital herpes
# Oral/perianal lesions
Lesions appear to have healed. Will continue ongoing antiviral 
therapy as before with plan. 

CHRONIC/STABLE PROBLEMS:
# Autoimmune autonomic neuropathy
Symptoms include burning of the skin, inability to sweat, bowel 
and bladder dysfunction. Currently reports improved after IVIG 
infusion. Has had ongoing discussions with her prescriber 
regarding whether her IVIG dose should be increased given 
relatively short beneficial effect at current dose. Last IVIG 
___. Currently stable symptoms. 

# Mast cell activation syndrome
Chronic urticaria, flushing followed by Dr. ___ at BWH. 
Continued home cetirizine, Montelukast, ranitidine, and Benadryl 


Greater than 30 minutes was spent in care coordination and 
counseling on the day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cepacol (Sore Throat Lozenge) 1 LOZ PO Q1H:PRN sore throat 
2. GuaiFENesin ___ mL PO TID:PRN sputum/congestion 
3. Acetaminophen 325-650 mg PO BID:PRN Pain - Mild/Fever 
4. LevOCARNitine 500 mg PO DAILY 
5. alpha lipoic acid ___ mg oral DAILY 
6. Cetirizine 10 mg PO BID 
7. Cyanocobalamin 500 mcg PO DAILY 
8. DiphenhydrAMINE 25 mg PO Q6H:PRN flushing 
9. Fish Oil (Omega 3) 1000 mg PO DAILY 
10. Gabapentin 200 mg PO BID:PRN burning pain 
11. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
12. Immune Globulin Intravenous (Human) 25 g IV EVERY 2 WEEKS 
(TH) 
13. melatonin 5 mg oral QHS 
14. Montelukast 10 mg PO DAILY 
15. Multivitamins W/minerals 1 TAB PO DAILY 
16. Probiotic Blend (___) 2 billion 
cell-50 mg oral DAILY 
17. Pyridostigmine Bromide 60 mg PO DAILY 
18. Ranitidine 150 mg PO BID 
19. ValACYclovir 1000 mg PO Q12H 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO BID:PRN Pain - Mild/Fever  
2.  alpha lipoic acid ___ mg oral DAILY  
3.  Cepacol (Sore Throat Lozenge) 1 LOZ PO Q1H:PRN sore throat  
4.  Cetirizine 10 mg PO BID  
5.  Cyanocobalamin 500 mcg PO DAILY  
6.  DiphenhydrAMINE 25 mg PO Q6H:PRN flushing  
7.  Fish Oil (Omega 3) 1000 mg PO DAILY  
8.  Gabapentin 200 mg PO BID:PRN burning pain  
9.  GuaiFENesin ___ mL PO TID:PRN sputum/congestion  
10.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
11.  Immune Globulin Intravenous (Human) 25 g IV EVERY 2 WEEKS 
(TH)  
12.  LevOCARNitine 500 mg PO DAILY  
13.  melatonin 5 mg oral QHS  
14.  Montelukast 10 mg PO DAILY  
15.  Multivitamins W/minerals 1 TAB PO DAILY  
16.  Probiotic Blend (___) 2 billion 
cell-50 mg oral DAILY  
17.  Pyridostigmine Bromide 60 mg PO DAILY  
18.  Ranitidine 150 mg PO BID  
19.  ValACYclovir 1000 mg PO Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Contaminate in blood
Viral Infection
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms ___,

It was a pleasure taking care of you while you were in the 
hospital. You were admitted as a blood culture from your prior 
hospitalization was positive. You were given antibiotics 
(vancomycin) to which you had a reaction. You were seen by the 
ID doctors who ___ that this was a contaminate and you are 
stable for discharge home. 

Please take your medications as you were prior to presenting to 
the hospital as we have made no new changes and follow up as 
directed below. 

 
Followup Instructions:
___